US06284755B1
Step A: Preparation of 3-ethyl-1-(2-methoxy-ethyl)-3-(3-benzyloxy-phenyl)-azepan-2-one
Sodium hydride (0.017 g, 0.425 mmol) was added to a solution of 3-ethyl-1-(2-hydroxy-ethyl)-3-(3-benzyloxyphenyl)-azepan-2-one, as described in Example 54, Step C, (0.12 g, 0.327 mmol) in DMF (5 mL) at 0° C. with stirring. After 20 min CH3I (0.041 mL, 0.653 mmol) was added and stirring was continued at room temperature for 16 h. The reaction was quenched with H2O and the solvents removed in vacuo. The residue was partitioned between EtOAc and saturated NaHCO3 solution. The organic layer was separated, washed with brine and dried (MgSO4). Filtration and concentration gave the title compound.

reactant | Sodium hydride | 0.425 mmol, 0.017 g | [H-].[Na+]
reactant | 3-ethyl-1-(2-hydroxy-ethyl)-3-(3-benzyloxyphenyl)-azepan-2-one | C(C)C1(C(N(CCCC1)CCO)=O)C1=CC(=CC=C1)OCC1=CC=CC=C1 | C23H29NO3
reactant | CH3I | 0.653 mmol, 0.041 mL | CI | CH3I
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 3-ethyl-1-(2-methoxy-ethyl)-3-(3-benzyloxy-phenyl)-azepan-2-one | C(C)C1(C(N(CCCC1)CCOC)=O)C1=CC(=CC=C1)OCC1=CC=CC=C1 | C24H31NO3
